US09226922B2
At 0° C., to a solution of (S)-2-amino-2-phenylacetic acid (3.0 g, 19.9 mmol) in THF (20 mL) were added 10% NaOH solution (20 mL, 50 mmol) and Boc2O (4.8 g, 22 mmol) and the contents were stirred at ambient temperature. After 3 hr, the reaction mixture was cooled to 0° C. and was acidified carefully with 50% citric acid solution (10 mL) until the pH of the solution is 4. The organic contents were extracted with EtOAc (3×25 mL) and the combined organic extracts were washed with brine (1×20 mL), dried over Na2SO4, concentrated to afford (S)-2-((tert-butoxycarbonyl)amino)-2-phenylacetic acid. The residue thus obtained was taken directly for step 2 without further purification. MS: [M+H]+ m/z 252.

reactant | (S)-2-amino-2-phenylacetic acid | 19.9 mmol, 3.0 g | N[C@H](C(=O)O)C1=CC=CC=C1 | C8H9NO2
reactant | NaOH | 50 mmol, 20 mL | [OH-].[Na+]
reactant | Boc2O | 22 mmol, 4.8 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | citric acid | 10 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (S)-2-((tert-butoxycarbonyl)amino)-2-phenylacetic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C1=CC=CC=C1 | C13H17NO4
